US06239248B1
PREPARATION OF POLY GLYCIDYL ETHER RESIN (EPOXY RESIN)
A one liter flask was charged with: 75 g (grams) of the flaked reaction product of Example 6; 200 g of isopropyl alcohol; and 52.5 g of water to form a reaction mixture. The reaction mixture was heated to 55° C. After 10 minutes there was add 388.5 g of epichlorohydrin. The reaction mixture was reheated to 55° C. and then 30 g of a 20% solution of sodium hydroxide in water was added while maintaining a temperature of 55° C. The 55° C. temperature was held for another 30 minutes. Then there was added 90 g of 20% solution of sodium hydroxide in water. The reaction mixture was held at 55° C. for another hour, heated to 65° C. and held for 30 minutes and then transferred to a separatory funnel. The upper clear brown organic layer (145.6 g) was stirred with 150 g water and 50 g of dry ice. The aqueous layer was discarded and the organic layer washed a second time and then vacuum distilled to recover excess epichlorohydrin and 105 g of dark resin of the epoxidized product of Example 6. This epoxy resin has a weight per epoxy equivalent of 203.1 and 225.8. This compares with a weight per epoxy equivalent of 210 for EPON 1031. Viscosities and weight per epoxy equivalent (WPE) of the epoxy resin of this Example 8 as well as comparisons with other epoxy resins prepared from polyphenols are shown below in tables wherein this example may be referred to as EX8.

reactant | isopropyl alcohol | 200 g | C(C)(C)O | C3H8O
reactant | epichlorohydrin | 388.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dry ice | 50 g | C(=O)=O | CO2
solvent | water | O | H2O
solvent | water | 150 g | O | H2O
solvent | water | 52.5 g | O | H2O
product | GLYCIDYL ETHER | C(C1CO1)OCC1CO1 | C6H10O3
